US07183278B1
Methyl 3-hydroxy-6-methoxy-picolinate
10% palladium-carbon (48 mg) was added to 480 mg of methyl 3-benzyloxy-6-methoxy-picolinate. After the replacement of the atmosphere by nitrogen, 25 ml of methanol was added thereto. Further, after the replacement of the atmosphere by hydrogen, the mixture was vigorously stirred to allow a reaction to proceed. One hr after the initiation of the reaction, the reaction mixture was filtered, followed by purification by chromatography on silica gel (chloroform-methanol) to give 240 mg (yield 76%) of the title compound.

reactant | methyl 3-benzyloxy-6-methoxy-picolinate | 480 mg | C(C1=CC=CC=C1)OC=1C(=NC(=CC1)OC)C(=O)OC | C15H15NO4
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 48 mg | [C].[Pd]
solvent | methanol | 25 ml | CO | CH4O
product | Methyl 3-hydroxy-6-methoxy-picolinate | 240 mg, yield 76% | OC=1C(=NC(=CC1)OC)C(=O)OC | C8H9NO4
